US08334236B2
(1) Production of 2-(2-methoxybenzylamino)nicotinic acid
7.00 g (44.2 mmol) of 2-chloronicotinic acid and 12.13 g (88.4 mmol) of 2-methoxybenzylamine were heated at 140° C. for 4 hours. The mixture was left to cool to room temperature, and then a 10% aqueous solution of sodium hydroxide was added to the reaction mixture. The resulting mixture was washed with chloroform. Concentrated hydrochloric acid was added to the aqueous phase to adjust the aqueous phase to pH 6 to 7, and a solid precipitated therefrom was separated by filtration and dried. Thus, 8.50 g (yield: 74%) of the title compound was obtained as a pale yellow powder.

reactant | 2-chloronicotinic acid | 44.2 mmol, 7.00 g | ClC1=C(C(=O)O)C=CC=N1 | C6H4ClNO2
reactant | 2-methoxybenzylamine | 88.4 mmol, 12.13 g | COC1=C(CN)C=CC=C1 | C8H11NO
reactant | sodium hydroxide | [OH-].[Na+]
product | 2-(2-methoxybenzylamino)nicotinic acid | 8.50 g, yield: 74% | COC1=C(CNC2=C(C(=O)O)C=CC=N2)C=CC=C1 | C14H14N2O3
